US08207164B2
a) 2-[2-(3-Bromo-phenyl)-2-oxo-ethoxy]-3,3,3-trifluoro-2-methyl-propionic acid methyl ester
To a solution of 3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid methyl ester (22.94 g, 133 mmol) in CH2Cl2 (400 ml) was added rhodium(II) trifluoroacetate dimer (0.439 g, 0.667 mmol). After cooling to 0° C. a solution of 1-(3-bromo-phenyl)-2-diazo-ethanone (15.0 g, 66.7 mmol) dissolved in CH2Cl2 (100 ml) was added over a period of 2 h. The reaction mixture was concentrated and the title compound was obtained after flash-chromatography on silica gel (toluene) as a yellow oil: TLC (toluene/EtOAc 10:1): Rf=0.45; HPLC RtH5=1.352 min; 1H NMR (360 MHz, CDCl3): δ 8.15 (s, 1H), 7.94 (d, 1H), 7.76 (d, 1H), 7.40 (t, 1H), 4.87 (s, 2H), 3.89 (s, 3H), 1.72 (s, 3H); ESIMS: 386, 388 [(M+NH4)+].

reactant | 3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid methyl ester | 133 mmol, 22.94 g | COC(C(C(F)(F)F)(C)O)=O | C5H7F3O3
reactant | 1-(3-bromo-phenyl)-2-diazo-ethanone | 66.7 mmol, 15.0 g | BrC=1C=C(C=CC1)C(C=[N+]=[N-])=O | C8H5BrN2O
solvent | CH2Cl2 | 400 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | rhodium(II) trifluoroacetate dimer | 0.667 mmol, 0.439 g | C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)O.C(=O)(C(F)(F)F)O.[Rh].[Rh]
product | 2-[2-(3-Bromo-phenyl)-2-oxo-ethoxy]-3,3,3-trifluoro-2-methyl-propionic acid methyl ester | COC(C(C(F)(F)F)(C)OCC(=O)C1=CC(=CC=C1)Br)=O | C13H12BrF3O4
